US06713474B2
Sodium hydride (120 mg, of a 60% dispersion in mineral oil) was added to a mixture of 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine (906 mg) in dry dimethyformamide (30 ml) and the mixture was stirred under nitrogen for 30 minutes at ambient temperature. A solution of ethyl 2-bromopropionate (543 mg) in dry DMF (10 ml) was added dropwise via a syringe over 10 minutes. The mixture was stirred at ambient temperature for 2 hours and then left for 18 hours. The mixture was evaporated under vacuum and the residue was washed with water to give a solid which was triturated with ether and filtered to give ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate, m.p. 139-140° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 906 mg | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | ethyl 2-bromopropionate | 543 mg | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethyformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propionate | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(C(=O)OCC)C | C23H22N4O3
